US08012976B2
9-(1-Methyl-1H-imidazol-2-yl)-8-(4-(trifluoromethyl)phenyl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one
A mixture of ethyl 3-(1-methyl-1H-imidazol-2-yl)-4-oxo-2-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroquinoline-5-carboxylate (150 mg, 0.34 mmol) in 85% hydrazine monohydrate (4 ml) and methanol (6 mL) was stirred at room temperature for 2 h. The mixture was filtered and washed with water to give the title compound (25 mg, yield: 18%). 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 3.46 (s, 3H), 4.81 (d, J=10.8 Hz, 1H), 5.07 (d, J=10.8 Hz, 1H), 6.82 (s, 1H), 6.97 (d, 1H), 7.16 (d, J=8 Hz, 1H), 7.41 (d, J=7.6 Hz, 2H), 7.58-7.69 (m, 5H), 12.22 (d, 1H); LC-MS (ESI) m/z: 412 (M+1)+.

reactant | ethyl 3-(1-methyl-1H-imidazol-2-yl)-4-oxo-2-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroquinoline-5-carboxylate | 0.34 mmol, 150 mg | CN1C(=NC=C1)C1C(NC=2C=CC=C(C2C1=O)C(=O)OCC)C1=CC=C(C=C1)C(F)(F)F | C23H20F3N3O3
reactant | hydrazine monohydrate | 4 ml | O.NN
solvent | methanol | 6 mL | CO | CH4O
product | 9-(1-Methyl-1H-imidazol-2-yl)-8-(4-(trifluoromethyl)phenyl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 25 mg, yield: 18% | CN1C(=NC=C1)C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C2=CC=C(C=C2)C(F)(F)F | C21H16F3N5O
